US05416066
4-Acryloyl-7-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine (4.0 g) and sulfuryl chloride (2.3 g) were reacted in the same manner as in Experimental Example 7 to give 4-acryloyl-2-chloro-7-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine (2.4 g).

reactant | 4-Acryloyl-7-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine | 4.0 g | C(C=C)(=O)N1CCSC2=C(C1)C=C(C=C2)OC | C13H15NO2S
reactant | sulfuryl chloride | 2.3 g | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 4-acryloyl-2-chloro-7-methoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine | 2.4 g | C(C=C)(=O)N1CC(SC2=C(C1)C=C(C=C2)OC)Cl | C13H14ClNO2S
